US05814654
Ethyl 1,3,4,5-tetrahydro-5-hydroxy-1-methyl-benz[cd]indole-2-carboxylate (0.25 g, 0.96 mmol) was added to a suspension of 60% sodium hydride (0.039 g, 0.96 mmol) in tetrahydrofuran (10 ml), followed by stirring at room temperature for 20 minutes. After the reaction mixture was cooled to 0°-5° C., methyl iodide (0.27 g, 1.93 mmol) was added thereto and the resulting mixture was stirred at 0°-5° C. for 1 hour and then at room temperature for 2.5 hours. The reaction mixture was poured into a 5% aqueous sodium chloride solution, followed by extraction with ethyl acetate (twice). The extract solution was washed twice with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/98) to obtain ethyl 1,3,4,5-tetrahydro-5-methoxy-1-methyl-benz[cd]indole-2-carboxylate (0.16 g).

reactant | Ethyl 1,3,4,5-tetrahydro-5-hydroxy-1-methyl-benz[cd]indole-2-carboxylate | 0.96 mmol, 0.25 g | OC1CCC2=C(N(C=3C=CC=C1C23)C)C(=O)OCC | C15H17NO3
reactant | sodium hydride | 0.96 mmol, 0.039 g | [H-].[Na+]
reactant | methyl iodide | 1.93 mmol, 0.27 g | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 1,3,4,5-tetrahydro-5-methoxy-1-methyl-benz[cd]indole-2-carboxylate | 0.16 g | COC1CCC2=C(N(C=3C=CC=C1C23)C)C(=O)OCC | C16H19NO3
